* File: Cell3_inv.pex.netlist.pex
* Created: Fri Oct 27 15:13:55 2023
* Program "Calibre xRC"
* Version "v2023.3_29.15"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_Cell3_inv_Vdd 4 16 20 21 22 25 29 32 38
c19 40 0 1.21516e-19
c20 32 0 0.00121259f
c21 25 0 0.0403621f
c22 21 0 0.00151975f
c23 16 0 1.43764e-19
r24 32 38 0.103325
r25 32 40 1.34966
r26 27 40 0.19
r27 27 29 0.802222
r28 25 39 0.992222
r29 22 35 0.0835733
r30 21 39 0.191607
r31 21 22 1.02091
r32 20 38 0.344533
r33 20 35 0.235319
r34 18 29 0.5
r35 16 18 0.0625
r36 11 25 0.5
r37 4 11 0.215909
.ends

.subckt PM_Cell3_inv_Gnd 7 11 21 26 29 31 36 38
c21 38 0 0.00112962f
c22 37 0 0.00135421f
c23 36 0 0.0417193f
c24 29 0 0.00147518f
c25 11 0 1.43764e-19
r26 36 37 0.175972
r27 33 38 1.65194
r28 29 38 0.198626
r29 29 31 0.000844444
r30 26 33 0.228358
r31 24 27 0.216292
r32 24 37 1.29283
r33 21 26 0.292308
r34 21 27 0.094188
r35 17 36 0.5
r36 13 31 0.5
r37 11 13 0.0625
r38 7 17 0.215455
.ends

.subckt PM_Cell3_inv_Out 1 3 6 8 10 13 15 20 23
c20 8 0 2.6528e-19
c21 3 0 2.6528e-19
r22 20 23 0.19
r23 16 23 0.204374
r24 15 22 0.204374
r25 13 22 0.991378
r26 10 16 0.590883
r27 10 15 0.34782
r28 8 20 0.5
r29 6 8 0.0625
r30 3 13 0.5
r31 1 3 0.0625
.ends

.subckt PM_Cell3_inv_In 1 2 3
r18 3 12 0.208853
r19 3 11 0.053448
r20 2 12 1.6
r21 1 11 1.415
.ends

