* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat Nov 25 17:19:43 2023
* Design path:          /home/vlsi/Desktop/Karim_Project/lib.defs
* Library:              Karim_Project
* Cell:                 And
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt And A B Out Gnd Vdd 
* Library name: Karim_Project
* Cell name: And
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=A TYPE=In
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=B TYPE=In

MM1n N1 B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=1300 $y=3400 $w=400 $h=600
MM1n1 Out N_1 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4200 $y=3500 $w=400 $h=600
MM2n N_1 A N1 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=1300 $y=4200 $w=400 $h=600
MM2p Out N_1 Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4200 $y=4500 $w=400 $h=600
MM3p N_1 A Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=1300 $y=5000 $w=400 $h=600
MM4p N_1 B Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=2500 $y=5000 $w=400 $h=600
.ends



