* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat Dec  9 17:57:31 2023
* Design path:          /home/vlsi/Desktop/Karim_Project_Nand22/lib.defs
* Library:              Karim_Project
* Cell:                 C0
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt NAND2 A B Z inh_vdd inh_vss 
* Library name: Generic_250nm_LogicGates
* Cell name: NAND2
* View name: schematic
* PORT=A TYPE=In
* PORT=[@vss:%:vss!] TYPE=Virtual
* PORT=Z TYPE=Out
* PORT=B TYPE=In
* PORT=[@vdd:%:vdd!] TYPE=Virtual

* Design: Generic_250nm_LogicGates / Cell: NAND2 / View: schematic / Page: Page0
* Designed by: Tanner EDA Library Development Team
* Organization: Tanner EDA - Mentor Graphics
* Info: 2 Input NAND with complementary output.
* Date: Sat Nov 16 01:50:29 2019
* Revision: 1 $ $x=7600 $y=600 $w=3600 $h=1200
MM1n N1 B inh_vss inh_vss NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=2800 $w=400 $h=600
MM2n Z A N1 inh_vss NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=3600 $w=400 $h=600
MM3p Z A inh_vdd inh_vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=4400 $w=400 $h=600
MM4p Z B inh_vdd inh_vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4700 $y=4400 $w=400 $h=600
.ends

.subckt C0 C0 C00 G0 P0 vdd! vss! 
* Library name: Karim_Project
* Cell name: C0
* View name: schematic
* PORT=C0 TYPE=Out
* PORT=vss! TYPE=Other
* PORT=vdd! TYPE=Other
* PORT=C00 TYPE=In
* PORT=P0 TYPE=In
* PORT=G0 TYPE=In

XX1 C00 P0 N_1 vdd! vss! NAND2 $ $x=3900 $y=5200 $w=1000 $h=500
XX2 N_1 G0 C0 vdd! vss! NAND2 $ $x=5700 $y=4500 $w=1000 $h=500
.ends



